US06881844B2
A solution of 2,2,2-trifluoro-1-(6-bromo-1H-indol-3-yl)-ethanone (3.0 g, 10.27 mmol) in N,N-dimethylformamide (20 mL) at 25° C. was treated with potassium carbonate (3.54 g, 25.68 mmol). The resulting mixture was stirred at 25° C. for 15 min and then treated with 2-iodopropane (1.54 mL, 15.41 mmol). The reaction was heated at 65° C. for 18 h. At this time, the reaction was cooled to 25° C. and was partitioned between water (100 mL) and ethyl acetate (100 mL). The organic layer was then washed with a 1N aqueous hydrochloric acid solution (1×25 mL) and a saturated aqueous sodium chloride solution (1×100 mL), dried over magnesium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40M, Silica, 2/1 hexanes/ethyl acetate) afforded 2,2,2-trifluoro-1-(6-bromo-1-isopropyl-1H-indol-3-yl)-ethanone (3.38 g, 99%) as a pink solid: mp 77-79° C.; EI-HRMS m/e calcd for C13H11BrF3NO (M) 332.9976, found 332.9975.

reactant | 2,2,2-trifluoro-1-(6-bromo-1H-indol-3-yl)-ethanone | 10.27 mmol, 3.0 g | FC(C(=O)C1=CNC2=CC(=CC=C12)Br)(F)F | C10H5BrF3NO
reactant | potassium carbonate | 25.68 mmol, 3.54 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-iodopropane | 15.41 mmol, 1.54 mL | IC(C)C | C3H7I
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 2,2,2-trifluoro-1-(6-bromo-1-isopropyl-1H-indol-3-yl)-ethanone | 3.38 g, 99% | FC(C(=O)C1=CN(C2=CC(=CC=C12)Br)C(C)C)(F)F | C13H11BrF3NO
